US08293768B2
Synthesis of ethyl 5-(1-benzyl-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-3-methylthiophene-2-carboxylate
Following the procedure as described in Example 29, making variations as required to replace 4-fluorobenzyl bromide with benzyl bromide to react with ethyl 3-methyl-5-(5-oxo-1H-1,2,4-triazol-4(5H)-yl)thiophene-2-carboxylate, the title compound was obtained as a yellowish solid in 82% yield: 1H NMR (300 MHz, CDCl3) δ 7.72 (s, 1H), 7.43-7.31 (m, 5H), 6.94 (s, 1H), 5.01 (s, 2H), 4.32 (q, J=7.1 Hz, 2H), 2.54 (s, 3H), 1.36 (t, J=7.1 Hz, 3H); MS (ES+) m/z 344.2 (M+1).

reactant | 4-fluorobenzyl bromide | FC1=CC=C(CBr)C=C1 | C7H6BrF
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | ethyl 3-methyl-5-(5-oxo-1H-1,2,4-triazol-4(5H)-yl)thiophene-2-carboxylate | CC1=C(SC(=C1)N1C=NNC1=O)C(=O)OCC | C10H11N3O3S
product | ethyl 5-(1-benzyl-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-3-methylthiophene-2-carboxylate | 82% yield | C(C1=CC=CC=C1)N1N=CN(C1=O)C1=CC(=C(S1)C(=O)OCC)C | C17H17N3O3S
